US04244963
1-[2-(Phenylsulfonyl)-2-propenyl]-4-piperidinol
4.0 g. (0.02 mole) of phenylsulfonylacetic acid was dissolved in 15 ml. of dioxane followed by a solution of 2.0 g. (0.02 mole) of 4-hydroxypiperidine in 20 ml. of dioxane and 2 ml. of water. At 30° C. 3.5 g. (0.04 mole) of 37% aqueous formaldehyde was added rapidly and the reaction mixture agitated thoroughly. The temperature was gradually raised by means of an oil bath to 42° C. and carbon dioxide evolution was initiated. The mixture was maintained at approximately 42° C. for an additional 2 hours. The solvent was removed under reduced pressure and the product was obtained as a residue.

reactant | phenylsulfonylacetic acid | 0.02 mole | C1(=CC=CC=C1)S(=O)(=O)CC(=O)O | C8H8O4S
reactant | 4-hydroxypiperidine | 0.02 mole | OC1CCNCC1 | C5H11NO
reactant | formaldehyde | 0.04 mole | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[2-(Phenylsulfonyl)-2-propenyl]-4-piperidinol | C1(=CC=CC=C1)S(=O)(=O)C(CN1CCC(CC1)O)=C | C14H19NO3S
